* source AAP
V_V3         N00148 0  AC 1
+SIN 0 1 1k 0 0 0
R_R1         N00219 N00373 4.7
R_R61         N00373 N12078 8.2k
Q_Q1         N01159 N00373 N006171 QBC856B 
Q_Q2         N01197 N01733 N006411 QBC856B 
R_R91         N01218 N006171 250
R_R92         N01218 N006411 250
R_R11         N01159 N01197 5.6k
R_R8         N01218 N01606 15k
D_D1         0 N01606 BZX84-C10 
R_R7         N01606 N01976 3.3k
R_R10         N01733 N017611 3.3k
R_R31         N01733 N12154 8.2k
R_R12         N01976 N02083 330
R_R13         N02083 N02258 3.3k
Q_Q3         N02328 N01159 N10545 QBC817-25 
Q_Q4         N02258 N02570 N02328 QBC846B 
R_R15         N10545 N01197 33
R_R141         N02258 N02570 2.4k
R_R142         N02570 N02328 2.6k
Q_Q6         N02787 N02328 N02824 QMJD32CT4G 
Q_Q8         N02824 N02787 N01197 QMJD31C 
R_R27         N02787 N01197 0.47
R_R291         N02059 N02824 1
R_R281         N03028 N02059 1
Q_Q7         N01976 N02979 N03028 QMJD31C 
Q_Q5         N01976 N02258 N02979 QMJD31C 
R_R26         N02979 N03028 0.47
R_R30         N02059 N03616 5
R_Rs         0 N03616 4
V_V1         N01976 0 27Vdc
V_V2         0 N01197 27Vdc
C_C1         N00148 N00219  4.7u  TC=0,0 
C_C2         0 N017611  4.7u  TC=0,0 
C_C3         N02059 N02083  10u  TC=0,0 
C_C4         N01159 N02328  4.7p  TC=0,0 
R_R292         N02059 N02824 0.47
R_R282         N03028 N02059 0.47
R_R62         N12078 0 22k
R_R32         N12154 N02059 22k
